US08710065B2
tert-butyl 7-(4-nitrophenyl)-2,7-diazaspiro[3.5]nonane-2-carboxylate
To a solution of 1-fluoro-4-nitrobenzene (0.155 ml, 1.458 mmol) in DMSO was added N,N-diisopropylethylamine (0.926 ml, 5.30 mmol) followed by tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate (300 mg, 1.326 mmol). The reaction mixture was heated to 100° C. overnight, and cooled to room temperature. The reaction mixture was quenched with 75 mL water, filtered, washed with water and dried over high-vac to provide the title compound. MS (ESI+) m/z 348.1 (M+H)+.

reactant | 1-fluoro-4-nitrobenzene | 1.458 mmol, 0.155 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N-diisopropylethylamine | 5.30 mmol, 0.926 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate | 1.326 mmol, 300 mg | C1N(CC12CCNCC2)C(=O)OC(C)(C)C | C12H22N2O2
solvent | DMSO | CS(=O)C | C2H6OS
product | tert-butyl 7-(4-nitrophenyl)-2,7-diazaspiro[3.5]nonane-2-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1 | C18H25N3O4
